US05753669
B. 4-Benzyl-3,5-dioxo-4-azatricyclo[5.2.1.02,6 ]dec-8-ene-1-carboxylic acid
30 g (90 mmol) of ethyl 4benzyl-3,5-dioxo-4-azatricyclo[5.2.1.02,6 ]dec-8-ene-1-carboxylate are heated under reflux with 5.3 g (0.13 mol) of NaOH in 150 ml of methanol overnight. The mixture is concentrated, the residue is taken up in 150 ml of water and the mixture is acidified with hydrochloric acid. The product which crystallizes out is filtered off with suction, washed with water and dried in air.

reactant | ethyl 4benzyl-3,5-dioxo-4-azatricyclo[5.2.1.02,6 ]dec-8-ene-1-carboxylate | 90 mmol, 30 g | C(C1=CC=CC=C1)N1C(C2C3(C=CC(C2C1=O)C3)C(=O)OCC)=O | C19H19NO4
reactant | NaOH | 0.13 mol, 5.3 g | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 4-Benzyl-3,5-dioxo-4-azatricyclo[5.2.1.02,6 ]dec-8-ene-1-carboxylic acid | C(C1=CC=CC=C1)N1C(C2C3(C=CC(C2C1=O)C3)C(=O)O)=O | C17H15NO4
